US05795887
N-Isopropyl-N-phenyl-2-[5-oxo-4-(3-phenyl-ureido)-4,5-dihydro-1,2,3a,6-tetraaza-benzo[e]azulen-6-yl]-acetamide
A mixture of 2-(4-Amino-5-oxo-4,5-dihydro-1,2,3a,6-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-N-phenyl-acetamide (140 mg, 0.361 mmol), prepared as in Intermediate 36, and phenyl isocyanate (39.2 uL, 0.361 mmol) in 5 mL dry DCM is stirred at ambient temperature under nitrogen overnight. After concentrating in vacuo, the residue is chromatographed on flash grade silica gel using 95% ethyl acetate in n-hexane. The fractions containing the product are combined, concentrated in vacuo, and triturated with hexane. After removing the solvent in vacuo, the product is dried overnight at ambient temperature under high vacuum to provide the title compound (84 mg, 0.165 mmol) as a white solid. The product is lyophilized from acetonitrile/water. 1H NMR (300 MHz, d6-DMSO): 0.89-0.96 (m, 6H); 4.02 (d, J=16.3 Hz, 1H); 4.16 (d, J=16.3 Hz, 1H); 4.62-6.73 (m, 1H); 5.99-6.05 (m, 1 H); 6.93 (t, J=7.2 Hz; 1H); 7.10-7.89 (m, 14H); 8.10 (s, 1H); 9.30 (s, 1H). MS (FAB): [M+H]+ 510.

reactant | 2-(4-Amino-5-oxo-4,5-dihydro-1,2,3a,6-tetraaza-benzo[e]azulen-6-yl)-N-isopropyl-N-phenyl-acetamide | 0.361 mmol, 140 mg | NC1C(N(C2=C(C3=NN=CN13)C=CC=C2)CC(=O)N(C2=CC=CC=C2)C(C)C)=O | C21H22N6O2
reactant | phenyl isocyanate | 0.361 mmol, 39.2 uL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-N-phenyl-2-[5-oxo-4-(3-phenyl-ureido)-4,5-dihydro-1,2,3a,6-tetraaza-benzo[e]azulen-6-yl]-acetamide | 0.165 mmol, 84 mg | C(C)(C)N(C(CN1C2=C(C3=NN=CN3C(C1=O)NC(=O)NC1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C28H27N7O3
